US08426447B2
Combined (R)-2′-amino-3-bromo-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-7-ol (2.259 g, 6.49 mmol), tetrakis(triphenylphosphine)palladium (0.750 g, 0.649 mmol), copper(i) iodide (0.124 g, 0.649 mmol) and THF (26.0 mL, 6.49 mmol) and DMF (26.0 mL, 6.49 mmol) in a reaction tube. Added diisopropylamine (18.19 mL, 130 mmol) then 2-methylbut-3-yn-2-ol (3.17 mL, 32.4 mmol) and flushed the reaction tube with argon. Sealed and heated at 85° C. for 3 hours. The mixture was diluted with water (100 mL) and extracted with DCM (1×100 mL, 2×50 mL). The combined organic extracts were dried over sodium sulfate, filtered, and evaporated. The resulting liquid was poured onto a 25-g SCX-2 column and eluted with methanol. The product was then eluted with 2M ammonia in methanol. The filtrate was evaporated and purified by chromatography on a 120-g Redi-Sep column, eluting with 0-100% of a 90:10:1 mixture of DCM/MeOH/NH4OH in DCM to give (R)-2′-amino-3-(3-hydroxy-3-methylbut-1-ynyl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-7-ol as a tan solid.

reactant | (R)-2′-amino-3-bromo-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-7-ol | 6.49 mmol, 2.259 g | NC=1OC[C@@]2(N1)C1=CC(=CC=C1OC1=NC=C(C=C12)Br)O | C14H10BrN3O3
reactant | THF | 6.49 mmol, 26.0 mL | C1CCOC1 | C4H8O
reactant | DMF | 6.49 mmol, 26.0 mL | CN(C)C=O | C3H7NO
reactant | diisopropylamine | 130 mmol, 18.19 mL | C(C)(C)NC(C)C | C6H15N
reactant | 2-methylbut-3-yn-2-ol | 32.4 mmol, 3.17 mL | CC(C)(C#C)O | C5H8O
solvent | water | 100 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.649 mmol, 0.750 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(i) iodide | 0.649 mmol, 0.124 g | [Cu]I
product | (R)-2′-amino-3-(3-hydroxy-3-methylbut-1-ynyl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-7-ol | NC=1OC[C@@]2(N1)C1=CC(=CC=C1OC1=NC=C(C=C12)C#CC(C)(C)O)O | C19H17N3O4
